US04370338
A solution of 77 g of bromine in 220 ml of acetic acid is added drop by drop, in a period of one hour, to a solution of 84 g of 4-trifluoromethoxy-aniline and 187 g of potassium thiocyanate in 500 ml of acetic acid. The mixture is stirred overnight at the ambient temperature. The reaction mixture is then poured into 2 liters of water. The resulting mixture is cooled in an icebath and neutralized by addition of ammonia. The insoluble material is separated by filtration, washed with water, then recrystallized in an ethanol-water mixture (50--50). 77 g of 2-amino-6-trifluoromethoxy-benzothiazole, which melts at 119° C., are thus obtained.

reactant | bromine | 77 g | BrBr | Br2
reactant | 4-trifluoromethoxy-aniline | 84 g | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
reactant | potassium thiocyanate | 187 g | [S-]C#N.[K+]
reactant | ammonia | N | H3N
solvent | acetic acid | 220 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
solvent | water | 2 liters | O | H2O
product | 2-amino-6-trifluoromethoxy-benzothiazole | 77 g | NC=1SC2=C(N1)C=CC(=C2)OC(F)(F)F | C8H5F3N2OS
